US06743802B2
N-Isopropyl-1-[3-(3-pyridinylethynyl)phenyl]-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide
Following the procedure of Step 5 of EXAMPLE 1, but substituting N-isopropyl-1-(3-ethynylphenyl)-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide from EXAMPLE 5 for phenylacetylene and 3-bromopyridine for N-isopropyl-1-(3-bromophenyl)-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide, the title compound was obtained as a light brown solid.

reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | 3-bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
reactant | N-isopropyl-1-(3-bromophenyl)-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide | C(C)(C)NC(=O)C1=CN(C2=NC=CC=C2C1=O)C1=CC(=CC=C1)Br | C18H16BrN3O2
product | N-Isopropyl-1-[3-(3-pyridinylethynyl)phenyl]-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide | C(C)(C)NC(=O)C1=CN(C2=NC=CC=C2C1=O)C1=CC(=CC=C1)C#CC=1C=NC=CC1 | C25H20N4O2
